US08293768B2
Synthesis of ethyl 2-(3-ethyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate
Following the procedure as described in Example 5, making variations to replace benzyl bromide with iodoethane to react with ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate, the title compound was obtained in 58% yield: 1H NMR (300 MHz, CDCl3) δ 4.29-4.04 (m, 4H), 3.64-3.33 (m, 4H), 2.63 (s, 3H), 1.38-1.05 (m, 6H); MS (ES+) m/z 284.3 (M+1).

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | iodoethane | ICC | C2H5I
reactant | ethyl 4-methyl-2-(2-oxoimidazolidin-1-yl)thiazole-5-carboxylate | CC=1N=C(SC1C(=O)OCC)N1C(NCC1)=O | C10H13N3O3S
product | ethyl 2-(3-ethyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | 58% yield | C(C)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O | C12H17N3O3S
